US07728141B2
N-acetyl-N-(7-(2,4-dichlorophenyl)-6-(4-chlorophenyl)-1,2-dihydro-1-isobutyl-3-methoxy-2-oxo-1,8-naphthyridin-4-yl)acetamide
N-(6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-3-cyanopyridin-2-yl)-N-isobutyl-2-methoxyacetamide (prepared by the reaction of 6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-2-(isobutylamino)pyridine-3-carbonitrile with 2-methoxyacetyl chloride using the conditions of EXAMPLE 62 Step A) was reacted with NaH using the conditions of EXAMPLE 80 affording 4-amino-7-(2,4-dichlorophenyl)-6-(4-chlorophenyl)-1-isobutyl-3-methoxy-1,8-naphthyridin-2(1H)-one which was acylated according to the procedure of EXAMPLE 64 affording the title compound. HPLC/MS: 586.0 (M+1), 5587.8 (M+3); Rt =4.64 min.

reactant | N-(6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-3-cyanopyridin-2-yl)-N-isobutyl-2-methoxyacetamide | ClC1=C(C=CC(=C1)Cl)C1=C(C=C(C(=N1)N(C(COC)=O)CC(C)C)C#N)C1=CC=C(C=C1)Cl | C25H22Cl3N3O2
reactant | 6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-2-(isobutylamino)pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=C(C=C(C(=N1)NCC(C)C)C#N)C1=CC=C(C=C1)Cl | C22H18Cl3N3
reactant | 2-methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | NaH | [H-].[Na+]
reactant | 4-amino-7-(2,4-dichlorophenyl)-6-(4-chlorophenyl)-1-isobutyl-3-methoxy-1,8-naphthyridin-2(1H)-one | NC1=C(C(N(C2=NC(=C(C=C12)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)CC(C)C)=O)OC | C25H22Cl3N3O2
product | N-acetyl-N-(7-(2,4-dichlorophenyl)-6-(4-chlorophenyl)-1,2-dihydro-1-isobutyl-3-methoxy-2-oxo-1,8-naphthyridin-4-yl)acetamide | C(C)(=O)N(C(C)=O)C1=C(C(N(C2=NC(=C(C=C12)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)CC(C)C)=O)OC | C29H26Cl3N3O4
